US06608070B1
Methyl[6-methoxy-2-(4-methylpyridine-2-carbonyl)-1H-indol-3-yl]acetate
A mixture of 4-bromo-3-nitroanisole (4.177 g, 18.0 mmol), methyl acrylate (3.24 ml, 36.0 ml), palladium(II) acetate (606.1 mg, 2.7 mmol), triphenylphosphine (1.416 g, 5.4 mmol), triethylamine (3.76 ml, 27.0 mmol) in DMF (45.0 ml) was stirred at 130° C. for 4 h. After cooling to ambient temperature, the mixture was concentrated. To the residue was added water (30 ml), and then the mixture was extracted with ethyl acetate-toluene (3:1, 40 ml). The aqueous layer was further extracted with ethyl acetate (2×30 ml ). The combined organic layers were dried (MgSO4) and concentrated to afford 6.42g (quant.) of the title compound as an brown oil.

reactant | 4-bromo-3-nitroanisole | 18.0 mmol, 4.177 g | BrC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
reactant | methyl acrylate | 3.24 ml | C(C=C)(=O)OC | C4H6O2
reactant | triphenylphosphine | 5.4 mmol, 1.416 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 27.0 mmol, 3.76 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 45.0 ml | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 2.7 mmol, 606.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl[6-methoxy-2-(4-methylpyridine-2-carbonyl)-1H-indol-3-yl]acetate | COC(CC1=C(NC2=CC(=CC=C12)OC)C(=O)C1=NC=CC(=C1)C)=O | C19H18N2O4
